US08048897B2
(2) Synthesis of Acetic Acid [2R,3S,4R,5R]-2,3,4-Tris-benzyloxy-5-benzyloxymethyl-1-[3-(4-methoxybenzyl)-phenyl]cyclohexyl Ester
To a solution of [2R,3S,4R,5R]-2,3,4-trisbenzyloxy-5-benzyloxymethyl-1-[3-(4-methoxybenzyl)phenyl]cyclohexanol (20 mg), triethylamine (0.008 mL) and 4-dimethylamino-pyridine (0.7 mg) in dichloromethane (0.10 mL), acetic anhydride (0.003 mL) was added under cooling with ice and the reaction mixture was stirred at room temperature for two hours. Then, acetyl chloride (0.003 mL) was added thereto under cooling with ice and the reaction mixture was stirred at room temperature for 30 minutes. a saturated sodium hydrogen-carbonate aqueous solution was added thereto and the mixture was extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was concentrated and the obtained residue was purified by preparative TLC [developing solution=ethyl acetate:n-hexane (2:5)] to obtain the title compound (4.2 mg).

reactant | [2R,3S,4R,5R]-2,3,4-trisbenzyloxy-5-benzyloxymethyl-1-[3-(4-methoxybenzyl)phenyl]cyclohexanol | 20 mg | C(C1=CC=CC=C1)O[C@H]1C(C[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(O)C1=CC(=CC=C1)CC1=CC=C(C=C1)OC | C49H50O6
reactant | triethylamine | 0.008 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.003 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylamino-pyridine | 0.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 0.10 mL | ClCCl | CH2Cl2
solvent | acetic anhydride | 0.003 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Acetic Acid [2R,3S,4R,5R]-2,3,4-Tris-benzyloxy-5-benzyloxymethyl-1-[3-(4-methoxybenzyl)-phenyl]cyclohexyl Ester | 4.2 mg | C(C1=CC=CC=C1)O[C@H]1C(C[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(C1=CC(=CC=C1)CC1=CC=C(C=C1)OC)OC(C)=O | C51H52O7
